Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins / Compazine / Paxil
 
Attending: ___
 
Chief Complaint:
"I was paralyzed"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo man with a PPHx of GAD, Substance 
Dependence and Adjustment Disorder who presents to ___ ED with 
worsening anxiety and substance abuse. He reports that for the 
past 3 days he has been "paralyzed" in his apartment. He notes 
one day he woke up and didn't want to go anywhere or do 
anything. He felt increasing symptoms of anxiety, he began 
drinking increasing amounts of alcohol (up to 1 quart of vodka a 
day) after reportedly being sober for the past 7 months. His 
last drink was yesterday evening prior to presentation. Although 
he states that he has a hx of depression, he relates that his 
depression has worsened significantly in the past few days.  
This has been in the context of medication noncompliance and 
final recent break-up with boyfriend of ___ years. Currently 
denies SI/HI.  He notes that he ran out of his medications this 
past week--notably his seroquel and clonidine that are being 
prescribed to him by his psychiatrist at the ___, although he 
has not attended in the past few days. He relates that his 
medications were somehow altered last week by his doctor but is 
unable to provide details of the changes, but that this made him 
feel worse. He notes over the past 3 days that he has not been 
taking good care of himself-- didn't shave or shower, and 
couldn't leave the house to go to work, his program, or his PCP 
___. He notes poor sleep, low energy, poor concentration. He 
admits that he forced himself to call a taxi to bring him to 
___ because he didn't know what else to do. "I was scaring 
myself."
 
Past Medical History:
HIV x ___ years 
Hep C 
Lyme disease 
h/o aspectic meningitis 
LLE cellulitis 
hypothyroid 
h/o SCC lower lip 

 
Social History:
___
Family History:
father=alcoholism
grandmother = h/o psychotic depression
mother = depression
 
Physical ___:
Obj: T 98.2  BP 126/80  HR 97  O2 sat 98% on RA
MSE:
Appearance: Somewhat disheveled in street clothes.  
Tired-looking caucasian male, unshaven, appropriate for age.
Behaviour: Normal gait, slightly slouched posture and 
appropriate eye contact.
Speech: Normal rate and volume. Somewhat monotone.
Mood: "tired and anxious"
Affect: Appropriate, not labile.
Thought process: logical, goal directed.
Thought content:  Denies auditory hallucinations, paranoid 
thoughts.
SI/HI: Says that he thought about "not living" a week ago and 
spoke to his psychiatrist, but has not had any active planning.  
No history of suicide attempts.  No HI.
Cognitive Exam: Alert and oriented x3.  Recalls and can explain 
recent events coherently and without difficulty.
 
Pertinent Results:
___ 08:45AM   VIT B12-518 FOLATE-13.3
___ 08:45AM   TSH-11*
___ 08:25PM   GLUCOSE-121* UREA N-12 CREAT-1.0 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-96 TOTAL CO2-25 ANION GAP-21*
___ 08:25PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 08:25PM   WBC-5.9 RBC-4.75 HGB-16.8 HCT-46.2 MCV-97 
MCH-35.4* MCHC-36.5* RDW-14.2
___ 08:25PM   NEUTS-44.3* LYMPHS-48.5* MONOS-4.7 EOS-1.7 
BASOS-0.9
___ 08:45AM BLOOD ALT-220* AST-204* AlkPhos-269* 
TotBili-1.4
 
Brief Hospital Course:
Psychotherapy: Mr. ___ was tired and anxious on admission and 
felt unable to care for himself. Given his recent alcohol intake 
of approximately a quart of EtOH per day, he was put on a CIWA 
scale with Ativan for possible withdrawl.  He required Seroquel 
for anxiety, but did not show significant signs of alcohol 
withdrawl.  He was continued on his Celexa from admission over 
the weekend ___ and ___ and showed signs of 
improvement.  The morning of ___ he reported that he had 
slept well and was ready for discharge.  He had consistently 
denied suicidal ideation, and was future oriented.
There was some difficulty arranging his outpatient partial 
program and insurance approval could not be obtained before 
noon.  Mr. ___ had planned on a noon departure and had 
apparently made several appointments for the afternoon.  He was 
informed that it would be better if he stayed until these 
arrangements could be made, but he insisted on leaving at noon 
as planned.  His application to rejoin the ___ partial 
program at the ___, which he has used in the past, was 
declined (the insurance company later approved IOP treatment).  
However, he will attempt to go to the program tomorrow morning 
(___) and has an appointment with his psychiatrist Dr. 
___ same morning.

Pyschopharmacology: Maintained on Celexa 20mg daily throughout.  
Patient had recurring anxiety for which he received seroquel, 
starting at 30mg TID and increased to 50mg Q4hrs PRN.  He 
generally took 3 or so doses per day.  He also had trouble 
sleeping, for which he received Zolpidem his first night and 
Doxepin 10mg other nights.  He also took Seroquel 400mg QHS.  
Finally, he requested a Nicotine patch as he usually smokes a 
pack a day.

Medical: Maintained on HIV medications (ritonavir, truvada and 
atazanavir) throughout.  Maintained on Synthroid 50mcg daily.  
Requested acyclovir ointment for a breakout of oral herpes.  On 
___, it was noticed that the patient had elevated liver 
enzymes (ALT-220, AST-204, AlkPhos-269).  He has follow-up with 
his PCP who may wish to repeat these labs or pursue further 
follow-up.

Family/Social Work: Mr. ___ declined permission to contact 
his family.  He has been set up with the ___ program at the 
___, where he also has a psychiatrist.

 
Medications on Admission:
1. Seroquel 400 mg PO QHS

2. Clonidine- dose unknown

3. Doxepin- dose unknown

4. Ritonavir 100 mg po daily with 1 capsule of Rayataz 150 mg

5. Truvada 200/300 mg po daily

6. Celexa 20 mg po daily
 
7. Levothyroxine 50 mg po daily
 
Discharge Medications:
Citalopram [Celexa]
20mg by mouth once daily

Ritonavir [Norvir]
100mg by mouth once daily

Emtricitabine-Tenofavir [Truvada]
300/200mg by mouth once daily

Levothyroxine [Synthroid]
50mcg by mouth once daily

Atazanavir [Reyataz]
300mg by mouth once daily

Acyclovir 5% ointment
One topical application every 4 hours as needed.

Quetiapine [Seroquel]
400 mg by mouth at bedtime as needed for insomnia

Quetiapine [Seroquel]
50mg by mouth every 4 hours as needed for anxiety

Doxepin
10mg by mouth at bedtime
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I:Generalized Anxiety Disorder, Major Depressive Disorder, 
Alcohol dependence
Axis II:defer 
Axis III:HIV, HCV, Hypothyroid 
Axis IV: Substance abuse, lack of social supports 
Axis V: GAF=50 
 
Discharge Condition:
Stable

Discharge MSE:
Appearance: Well-groomed, casually dressed caucasian male.  
Tired-looking, appropriate for age.
Behaviour: Normal gait and appropriate eye contact.
Speech: Normal rate and volume.
Mood: "anxious to be discharged"
Affect: Appropriate, not labile.
Thought process: logical, goal directed.
Thought content:  Denies auditory hallucinations, paranoid 
thoughts.
SI/HI: Says that he thought about "not living" a week ago and 
spoke to his psychiatrist, but has not had any active planning.  
No history of suicide attempts.  No HI.
Cognitive Exam: Alert and oriented x3.
 
Discharge Instructions:
Please continue to take medications as prescribed and keep all 
outpatient appointments.
Please return to an emergency room for evaluation if symptoms 
worsen, including inability to care for self or thoughts of 
suicide.
 
Followup Instructions:
___